US08076516B2
Heck coupling of N-(3-bromobenzyl)cyclohexanamine and N-allyl-2,2,2-trifluoroacetamide following the method described in Example 118 gave (E)-N-(3-(3-((cyclohexylamino)methyl)phenyl)allyl)-2,2,2-trifluoroacetamide as a colorless oil. Yield (0.20 g, 22%): 1H NMR (400 MHz, CD3OD) δ 7.55 (s, 1H), 7.48-7.50 (m, 1H), 7.42 (t, J=7.6 Hz, 1H), 7.35-7.37 (m, 1H), 6.61 (d, J=16.0 Hz, 1H), 6.32 (dt, J=16.0, 6.4 Hz, 1H), 4.19 (s, 2H), 4.05 (d, J=6.4 Hz, 2H), 3.07-3.16 (m, 1H), 2.14-2.22 (m, 2H), 1.66-1.82 (m, 2H), 1.68-1.76 (m, 1H), 1.16-1.50 (m, 5H).

reactant | N-(3-bromobenzyl)cyclohexanamine | BrC=1C=C(CNC2CCCCC2)C=CC1 | C13H18BrN
reactant | N-allyl-2,2,2-trifluoroacetamide | C(C=C)NC(C(F)(F)F)=O | C5H6F3NO
product | (E)-N-(3-(3-((cyclohexylamino)methyl)phenyl)allyl)-2,2,2-trifluoroacetamide | C1(CCCCC1)NCC=1C=C(C=CC1)/C=C/CNC(C(F)(F)F)=O | C18H23F3N2O
